US04474786
To a mixture of 60 ml of concentrated sulfuric acid and 15 ml of water, add 22.2 gm of 4,6-dihydro-3H[2]benzopyrano-[3,4-b]pyridin-3-one-2-carboxylic acid. Heat the system at reflux for 24 hours. Cool the system and pour the solution into 1 liter of ice/water. Neutralize the solution with 10N NaOH solution. Extract the solution with 300 ml of chloroform and dry the organic solution over anhydrous magnesium sulfate. Filter the solution and remove the solvent by stripping to give 4,6-dihydro-3H[2]-benzopyrano-[3,4-b]pyridin-3-one.

reactant | sulfuric acid | 60 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4,6-dihydro-3H[2]benzopyrano-[3,4-b]pyridin-3-one-2-carboxylic acid | 22.2 gm | C=1C2=C(NC(C1C(=O)O)=O)OCC1=C2C=CC=C1 | C13H9NO4
reactant | NaOH | 10N | [OH-].[Na+]
solvent | water | 15 ml | O | H2O
product | 4,6-dihydro-3H[2]-benzopyrano-[3,4-b]pyridin-3-one | C=1C2=C(NC(C1)=O)OCC1=C2C=CC=C1 | C12H9NO2
